US08623889B2
Step 1: 2-chloro-3-fluoro-4-methyl-5-((trimethylsilyl)ethynyl)pyridine
A mixture of 2-chloro-3-fluoro-5-iodo-4-methyl-pyridine (2960 mg, 10.9 mmol), ethynyltrimethylsilane (1.89 mL, 13.1 mmol), N,N-diisopropylethylamine (3.80 mL, 21.8 mmol), dichlorobis(triphenylphosphine)palladium(II) (390 mg, 0.545 mmol), and cuprous iodide (104 mg, 0.55 mmol) in dioxane (40 mL) was heated at 60° C. for 2 hours. The reaction mixture was filtered through a short plug of silica, rinsed with 50 mL of ethyl acetate/heptane (1:1), and the filtrate was evaporated in vacuo to provide an orange oil that was purified by flash chromatography (12 g, Silica, 0-20% ethyl acetate in heptane). Desired fractions were combined and evaporated in vacuo to afford the title compound as a pale yellow oil, (2.35 mg, 89%). 1H NMR (400 MHz, CDCl3) δ 8.21 (s, 1H), 2.40 (d, J=1.9 Hz, 3H), 0.28 (s, 11H).

reactant | 2-chloro-3-fluoro-5-iodo-4-methyl-pyridine | 10.9 mmol, 2960 mg | ClC1=NC=C(C(=C1F)C)I | C6H4ClFIN
reactant | ethynyltrimethylsilane | 13.1 mmol, 1.89 mL | C(#C)[Si](C)(C)C | C5H10Si
reactant | N,N-diisopropylethylamine | 21.8 mmol, 3.80 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.545 mmol, 390 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-chloro-3-fluoro-4-methyl-5-((trimethylsilyl)ethynyl)pyridine | 2.35 mg, 89% | ClC1=NC=C(C(=C1F)C)C#C[Si](C)(C)C | C11H13ClFNSi
